US05756505
As in the case of Reference Example 3 ,ethyl 4-hydroxybenzoate (2.50 g) was benzylated with benzyl bromide (2.57 g) followed by hydrolysis with potassium hydroxide, thereby yielding 3.31 g of 4-benzyloxybenzoic acid as a crystal. In tetrahydrofuran (50 ml), this compound (1.18 g) was suspended together with N,N'-dicyclohexylcarbodiimide (1.14 g) and 4-hydroxybenzotriazole (0.81 g) and then, with 1-isobutylpiperazine (0.71 g) added thereto, stirred at room temperature for 24 hours. The reaction mixture, with water added thereto, was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum. The residue was purified by silica gel column chromatography (chloroform:methanol=60:1) and the resulting solid was recrystallized (from n-hexane/ethyl acetate), thereby yielding 1.03 g of the aimed compound.

reactant | ethyl 4-hydroxybenzoate | 2.50 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | benzyl bromide | 2.57 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydroxide | [OH-].[K+]
product | 4-benzyloxybenzoic acid | 3.31 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
